* source PROJECT_CAD
R_R9         OUT_HYSTERESIS N04930  1k TC=0,0 
X_U3         N04558 N04778 15V 0 OUT_SENZOR AD822/AD
R_R6         N04620 OUT_HYSTERESIS  10K TC=0,0 
V_V1         15V 0 15
R_R8         15V N04620  10.7K TC=0,0 
R_R5         OUT_SENZOR N04994  1k TC=0,0 
X_U4         N04620 N04994 15V 0 OUT_HYSTERESIS AD822/AD
Q_Q1         15V N04930 N05000 Q2N2222A/ZTX 
R_R3         OUT_SENZOR N04778  12.4k TC=0,0 
R_R11         N05000 N05112  825 TC=0,0 
X_D1         N05112 0 LED PARAMS: IS=3.7602e-29 RS=2  BV=5 IBV=10e-6         
R_R10         N05000 0  1.21k TC=0,0 
R_R4         N04778 0  10k TC=0,0 
R_R7         N04620 0  7.68K TC=0,0 
R_R1         N04558 15V  953k TC=0,0 
R_R2         0 N04558  {rvar} TC=0,0 
.PARAM  rvar=332k
